2138-04-06 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2138-4-5**]:
   - Gave additional 2mg of narcan with good result
   - Maintained on BiPap 10/5 overnight
   - Held off on diuresing given borderline blood pressures 80-90s
   systolic with decreasing urine output overnight, gave 250cc bolus and
   planned to transfuse one unit with lasix
   - Tolerated BiPAP until 2am, then awake, 02 sat 100 on 40% face mask
   - At 5am woke up dyspneic, 02 sat 84%, rhonchi on L concerning for
   infiltrate, got CXR, gave 40mg IV lasix, put back on BiPAP, continued
   to be tachypneic gave 1mg of morphine
   - 6:30am pt apneic on BiPAP, put on a rate, more somnolent
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2138-4-6**] 05:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-4-6**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98
   HR: 107 (68 - 107) bpm
   BP: 98/69(86) {73/26(39) - 124/69(86)} mmHg
   RR: 20 (10 - 22) insp/min
   SpO2: 84%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 60 Inch
             Total In:
                                                                    100 mL
                                                                    250 mL
   PO:
             TF:
   IVF:
                                                                    100 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                    510 mL
                                                                    145 mL
   Urine:
                                                                    510 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -410 mL
                                                                    105 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 696 (612 - 701) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 84%
   ABG: 7.40/54/207/30/7
   Ve: 7.8 L/min
   PaO2 / FiO2: 518
   Physical Examination
   General:  In NAD, somnolent, arousable but somnolent
   HEENT:  NC, AT, EOMI, PERRLA, MMM
   CVS:  RRR, [**2-14**] holosystolic murmur with no S2, unable to assess JVP
   RESP:  Rhonchi BL anteriorly worse on left than right , no wheezes
   ABD:  Soft, NT, ND, +BS
   EXT:  1+ BL LE edema, dopplerable pulses bilaterally
   Neuro:  A+Ox3, cn2-12 intact, sensory and motor intact
   Labs / Radiology
   209 K/uL
   8.1 g/dL
   162 mg/dL
   2.9 mg/dL
   30 mEq/L
   4.5 mEq/L
   70 mg/dL
   99 mEq/L
   141 mEq/L
   26.1 %
   9.9 K/uL
        [image002.jpg]
                             [**2138-4-5**]  07:44 PM
                             [**2138-4-5**]  09:34 PM
                             [**2138-4-6**]  02:48 AM
   WBC
   10.0
   9.9
   Hct
   27.4
   26.1
   Plt
   202
   209
   Cr
   3.0
   2.9
   TropT
   0.42
   TCO2
   35
   Glucose
   165
   162
   Other labs: PT / PTT / INR:13.6/25.0/1.2, CK / CKMB /
   Troponin-T:515/6/0.42, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 478**] is a 75 yo woman with severe aortic stenosis, diabetes, and
   morbid obesity who presents with dyspnea.
   .
   # Respiratory Failure:  Likely multifactorial.  Contributing factors
   include respiratory supression from overuse of narcotics in the ED,
   pulmonary edema secondary to critical aortic stenosis and myocardial
   demand/ischemia, and underlying OSA.
   - Non-invasive ventilation with BiPAP with backup rate
   - Gave additional 40mg Iasix this AM, will repeat later today if
   necessary, follow I/O and lung exam
   - Avoid narcotics and sedating medications such as trazodone
   - Will hold imdur & hydralazine for now given relative hypotension in
   the setting of narcotics, will restart at home doses and uptitrate as
   tolerated
   - Ultimate treatment would be valvuloplasty vs. [**Known lastname **], unlikely the
   patient is a good candidate for [**Last Name (LF) **], [**First Name3 (LF) **] consider valvulopasty during
   this hospitalization
   - Albuterol PRN
   - NPO as aspiration risk
   .
   # Congestive heart failure with preserved EF: due to severe aortic
   stenosis and diastolic heart failure.
   - continue metoprolol decreased dose at 12.5mg given relative
   hypotension
   - restart imdur & hydralazine as blood pressures can tolerate
   - IV lasix PRN
   - Monitor I/Os and daily weights
   - Consider pressors if necessary for low BPs as may not tolerate IVF
   .
   # Severe AS: would likely benefit from an intervention and will have to
   decide whether valvuloplasty or [**First Name3 (LF) **] is the better option for her->if
   she agrees to any intervention at this point will likely have cath
   tomorrow.
   - Family will reverse code status for procedures
   .
   # Troponin leak: clinical picture not consistent with acute coronary
   syndrome, may represent demand ischemia from decompensated heart
   failure.  No h/o cardiac cath to determine if has significant coronary
   artery disease, may require if the patient remains a candidate for [**First Name3 (LF) **]
   - continue aspirin and statin for primary prevention
   - no need for heparin or plavix given unlikely to be ACS
   - Daily EKGs
   .
   # Acute on chronic renal failure:  Likely secondary to poor forward
   flow secondary to aortic stenosis and aggressive diuresis
   - Hold off on diuretics if not needed
   - Check Urine Lytes, eosinophils
   - Monitor UOP
   .
   # Diabetes Mellitus:  Monitor FS BG QACHS, home lantus 10mg QHS, [**12-13**]
   when NPO and humalog sliding scale.  Diabetic diet when can tolerate
   .
   # Depression:  Continue celexa
   .
   # GERD, H/O GI Bleeds:  Hct drop to 26.7 on this admission with guaiac
   positive stools.
   - Monitor twice daily hcts, has active T+C, will transfuse if BPs
   decrease and hct decreases but will hold for now given respiratroy
   status.
   - Guaiac all stools
   - Continue pantoprazole and GI regimen
   .
   FEN:  NPO for tonight, replete lytes PRN
   PPx:  Heparin SC TID, pantoprazole, bowel regimen, tylenol for pain
   Code Status:  DNR/DNI confirmed with family
   Communication:  HCP [**Name (NI) **] [**Name (NI) 478**] ([**Telephone/Fax (1) 7131**], [**First Name8 (NamePattern2) **] [**Known lastname 478**]
   ([**Telephone/Fax (1) 7132**], h ([**Telephone/Fax (1) 7133**], [**First Name5 (NamePattern1) 13**] [**Last Name (NamePattern1) 7134**] c([**Telephone/Fax (1) 7135**],
   h([**Telephone/Fax (1) 7136**]
   ICU Care
   Nutrition:  NPO for now
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-4-5**] 10:11 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:CCU
   ------ Protected Section ------
   I have reviewed her case in detail with Dr. [**Last Name (STitle) 7145**] to assess her
   candidacy for aortic valvuloplasty and cardiac catheterization.  I
   spoke with the patient
s son, [**Name (NI) **], and reviewed the indications,
   risks, benefits, and alternatives of these procedures.  They have an
   excellent understanding of the issues, including the potential risk of
   death and renal failure requiring dialysis.  He wishes to proceed.  He
   also agrees that the patient will have her code status changed to full
   code for the procedure.
   ------ Protected Section Addendum Entered By:[**Name (NI) 135**] [**Last Name (NamePattern1) **], MD
   on:[**2138-4-6**] 11:06 ------

2138-04-07 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - I/O was 20-50mL/hr so no further lasix given
   - PM hct was 24.1 so got 2units pRBCs with lasix 40mg IV before
   (because sats down to 80s prior to blood going in) and then in between
   - BPs transiently low at 2pm and considered dopa but then back up to
   maps ~50 and mentating/urinating so held off.
   - Plan for valvuloplasty in am [**2138-4-7**]
   - Gave fluconazole X 1 dose for yeast but did not treat dirty ua as no
   fever and no leukocytosis.
   S: pt reports continued severe SOB, denies CP or pressure.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-4-6**] 02:00 PM
   Furosemide (Lasix) - [**2138-4-6**] 04:00 PM
   Other medications: fluconazole, ascorbic acid 500 [**Hospital1 7**], ASA 325,
   atorvastatin 80, celexa 40, dulcolax 100 [**Hospital1 7**], HISS, lopressor,
   pantoprazole 40, MVI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-4-7**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (97
   HR: 88 (71 - 89) bpm
   BP: 122/45(64) {82/27(25) - 122/72(77)} mmHg
   RR: 24 (14 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112 kg (admission): 114 kg
   Height: 60 Inch
                  Total In:
                                                                  1,080 mL
                                                                    150 mL
   PO:
                                                                    280 mL
                  TF:
   IVF:
                                                                    250 mL
   Blood products:
                                                                    550 mL
                                                                    150 mL
   Total out:
                                                                    760 mL
                                                                    220 mL
   Urine:
                                                                    760 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    320 mL
                                                                    -70 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula 70%
   SpO2: 99%
   ABG: ////
   Physical Examination
   General:  In NAD, alter with NRB in place.  Pt
   [**Name (NI) 1824**]:  NC, AT, EOMI, PERRLA, MMM
   CVS:  RRR, [**2-14**] holosystolic murmur with no S2, unable to assess JVP
   RESP:  Rhonchi BL anteriorly but clears with cough , no wheezes
   ABD:  Soft, NT, ND, +BS
   EXT:  2+ BL LE edema to knee, dopplerable pulses bilaterally
   Skin: groin with macerated skin
   Neuro:  A+Ox3, cn2-12 intact grossly intact
   Labs / Radiology
   218 K/uL
   9.7 g/dL
   134 mg/dL
   3.0 mg/dL
   30 mEq/L
   4.3 mEq/L
   74 mg/dL
   98 mEq/L
   141 mEq/L
   30.7 %
   10.6 K/uL
        [image002.jpg]
                             [**2138-4-5**]  07:44 PM
                             [**2138-4-5**]  09:34 PM
                             [**2138-4-6**]  02:48 AM
                             [**2138-4-6**]  01:51 PM
   WBC
   10.0
   9.9
   Hct
   27.4
   26.1
   24.1
   Plt
   202
   209
   Cr
   3.0
   2.9
   TropT
   0.42
   TCO2
   35
   Glucose
   165
   162
   Other labs: PT / PTT / INR:12.5/21.9/1.1,
   CK / CKMB / Troponin-T:515/6/0.42,
   Ca++:9.0 mg/dL, Mg++:2.7 mg/dL, PO4:4.4 mg/dL
   Color
   Yellow
   Appear
   Cloudy
   SpecGr
   1.013
   pH
   5.5
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Lg
   Bld
   Mod
   Nitr
   Neg
   Prot
   30
   Glu
   Neg
   Ket
   Neg
   RBC
   41
   WBC
   568
   Bact
   Many
   Yeast
   Many
   Epi
   4
   Rare urine Eos.
   FE urea 43%.
   CXR [**2138-4-6**]
   There is no interval change. There are again seen opacities at the lung
   bases
   bilaterally. There is likely also a right-sided pleural effusion. There
   are
   no signs for overt pulmonary edema. The cardiac silhouette is upper
   limits of
   normal.
   Assessment and Plan
   Ms. [**Known lastname 478**] is a 75 yo woman with severe aortic stenosis, diabetes, and
   morbid obesity who presents with dyspnea.
   .
   # Respiratory Failure: most likely secondary to pulmonary edema from
   critical aortic stenosis and myocardial demand/ischemia, and underlying
   OSA.  Pt had oversedation from narcotics in ED but somnolence has
   sinced resolved.
   - continue high flow O2 to keep O2 sat>90%
   - start lasix gtt, goal negative 250-500cc negative today - follow I/O
   and lung exam
   - Avoid narcotics and sedating medications such as trazodone
   - cont to hold imdur & hydralazine given low BP
   - Plan for  valvuloplasty after evaluation of coronaries to exclude
   cardiac ischemia as etiology of current presentation.  Pt will likely
   need to be intubated prior to procedure b/c can
t lie flat.
   - Albuterol PRN
   - NPO as aspiration risk
   .
   # Congestive heart failure with preserved EF: due to severe aortic
   stenosis and diastolic heart failure.
   - continue metoprolol decreased dose at 12.5mg given relative
   hypotension
   - hold imdur & hydralazine  given low BP
   - lasix gtt as above
   - Monitor I/Os and daily weights
   - Consider pressors if necessary for low BPs as may not tolerate IVF
   .
   # Severe AS: Will consider valvuloplasty in future after evaluation of
   coronaries.  In addition, concern re: ability to access arterial system
   given severe PVD
   - femoral artery u/s bilat today
   - Family will reverse code status for procedures
   .
   # Troponin leak: clinical picture not consistent with acute coronary
   syndrome, may represent demand ischemia from decompensated heart
   failure.  No h/o cardiac cath to determine if has significant coronary
   artery disease, may require if the patient remains a candidate for AVR
   - continue aspirin and statin for primary prevention
   - no need for heparin or plavix given unlikely to be ACS
   - Daily EKGs
   .
   # Acute on chronic renal failure:  Likely secondary to poor forward
   flow secondary to aortic stenosis and previous aggressive diuresis.  Pt
   FE Urea consistent with intrinsic etiology.
   - Monitor UOP
   .
   # Diabetes Mellitus:  Monitor FS BG QACHS, home lantus 10mg QHS, [**12-13**]
   when NPO and humalog sliding scale.  Diabetic diet when can tolerate
   .
   # Depression:  Continue celexa
   .
   # GERD, H/O GI Bleeds:  Hct at 30 s/p 2units PRBC o/n.  Pt with with
   guaiac positive stools this admission.
   - Monitor twice daily hcts, has active T+C, will transfuse if BPs
   decrease and hct decreases but will hold for now given respiratroy
   status.
   - Guaiac all stools
   - Continue pantoprazole and GI regimen
   .
   FEN:  NPO for tonight, replete lytes PRN
   PPx:  Heparin SC TID, pantoprazole, bowel regimen, tylenol for pain
   Code Status:  DNR/DNI confirmed with family
   Communication:  HCP [**Name (NI) **] [**Name (NI) 478**] ([**Telephone/Fax (1) 7131**], [**First Name8 (NamePattern2) **] [**Known lastname 478**]
   ([**Telephone/Fax (1) 7132**], h ([**Telephone/Fax (1) 7133**], [**First Name5 (NamePattern1) 13**] [**Last Name (NamePattern1) 7134**] c([**Telephone/Fax (1) 7135**],
   h([**Telephone/Fax (1) 7136**]
   ICU Care
   Nutrition:  NPO for now
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-4-5**] 10:11 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:CCU
   ------ Protected Section ------
   Chart reviewed.  Patient interviewed and examined on CCU Rounds.
   Discussed in detail again with CCU team, Dr. [**Last Name (STitle) 7145**], and family.  Svere
   AS and recurrent respiratory distress.  Management made more difficult
   by renal insufficiency and severe PVD.  I agree with Dr. [**First Name (STitle) 840**]
s H+P,
   A+P above and would add the follwing:
   1)       It is apparent that even aortic valvuloplasty carries
   substantial risk in this patient.  PVD limits access sites
 and dye
   load has significant chance of resulting in need for dialysis.  It also
   would require coronary angiography and elective intubation.
   2)       The patient has repeatedly stated that her wishes are to
   her go
.  Her son and family were present this morning when she
   restated these wishes.
   3)       The patient is not a surgical candidate as her mortality from
   surgery would be prohibitive.
   Based on the above, the family and patient have decided to pursue
   comfort measures only and the patient remains DNR/DNI.
   90 minutes spent on patient critical care.  ICU level care due to
   severely compromised respiratory status.
   ------ Protected Section Addendum Entered By:[**Name (NI) 135**] [**Last Name (NamePattern1) **], MD
   on:[**2138-4-7**] 11:53 ------